US05962457
A mixture of 1-benzyl-5-methyl-6-o-tolyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one (4.0 g, 12.07 mmol), acetic acid (150 mL), ethanol (25 mL), and palladium hydroxide on carbon (4.0 g) was hydrogenated on a Parr apparatus. After 5 hours the catalyst was filtered off and replaced with fresh palladium hydroxide on carbon (4.0 g). The hydrogenation was continued 48 hours longer. The reaction was filtered and the filtrate was concentrated to afford 5-methyl-6-o-tolyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one (0.488 g, 17%) as a white powder.

reactant | 1-benzyl-5-methyl-6-o-tolyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | 12.07 mmol, 4.0 g | C(C1=CC=CC=C1)N1NNC=2N=C(N(C(C21)=O)C2=C(C=CC=C2)C)C | C19H19N5O
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide on carbon | 4.0 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-methyl-6-o-tolyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | 0.488 g, 17% | CC=1N(C(C2=C(N1)NN=N2)=O)C2=C(C=CC=C2)C | C12H11N5O
